US04923857
To a solution of (3S,4R)-4-[4-{(2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)pyrrolidin-2-yl)-3-methyl-2-oxo-3-butenyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (0.33 g) and triethylamine (0.17 ml ) in dichloromethane (10 ml) was added allyl oxalyl chloride (0.13 g) at -20° C. and the resulting mixture was stirred for 30 minutes at -20° C. The reaction mixture was taken up into a mixture of water (50 ml) and ethyl acetate (50 ml). The organic layer was separated, washed in turn with water, aqueous sodium hydrogen carbonate and brine, and dried over magnesium sulfate. Evaporation of the solvent gave allyl 2-[(3S,4R)-4-[4-{(2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)pyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]- 3-{(1R)-1-t-butyldimethylsilyloxyethyl)-2-oxoazetidin-1-yl]glyoxylate (0.26 g).

reactant | (3S,4R)-4-[4-{(2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)pyrrolidin-2-yl)-3-methyl-2-oxo-3-butenyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 0.33 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OC(N(C)C)=O)C=C(C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C27H45N3O7Si
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | allyl 2-[(3S,4R)-4-[4-{(2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)pyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]- 3-{(1R)-1-t-butyldimethylsilyloxyethyl)-2-oxoazetidin-1-yl]glyoxylate | 0.26 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OC(N(C)C)=O)C=C(C(C[C@@H]1[C@H](C(N1C(C(=O)OCC=C)=O)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C32H49N3O10Si
